US07667041B2
IPEA (0.58 mL), EDC (0.38 g) and HOBT (0.27 g) were added to a suspension of (E)-5-chloro-2-(3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene)valeric acid trifluoroacetate (300 mg) and 1,2,3,4-tetrahydronaphthalen-2-ylamine (148 mg) in DMF (10 mL) at room temperature, and the reaction solution was stirred at room temperature for 1 hour. A saturated aqueous solution of sodium bicarbonate and ethyl acetate were added to the reaction solution and the organic layer was partitioned. The organic layer was washed sequentially with a saturated aqueous solution of ammonium chloride, water and a saturated aqueous solution of sodium chloride. The organic layer was dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The resulting residue was purified by silica gel chromatography (Carrier: Chromatorex™ NH, elution solvent:heptane-ethyl acetate system) to obtain (E)-5-chloro-2-(3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene)valeric acid (1,2,3,4-tetrahydronaphthalen-2-yl)amide (255 mg). Sodium hydride (containing mineral oil at 40%, 50 mg) was added to a solution of (E)-5-chloro-2-(3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene)valeric acid (1,2,3,4-tetrahydronaphthalen-2-yl)amide (255 mg) in DMF (6 mL) at room temperature, and the reaction solution was stirred at room temperature for 30 minutes. A saturated aqueous solution of sodium bicarbonate and ethyl acetate were added to the reaction solution and the organic layer was partitioned. The organic layer was washed sequentially with a saturated aqueous solution of ammonium chloride, water and a saturated aqueous solution of sodium chloride. The organic layer was dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The resulting residue was purified by silica gel chromatography (Carrier: Chromatorex™ NH, elution solvent:heptane-ethyl acetate system) to obtain (E)-3-(3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene)-1-(1,2,3,4-tetrahydronaphthalen-2-yl)piperidin-2-one as a racemate (210 mg). The compound (12 mg) was fractionated using CHIRALPAK™ AD-H manufactured by Daicel Chemical Industries, Ltd. (2 cm×25 cm: mobile phase: ethanol) to obtain the title optically active substance with a retention time of 9.5 minutes (Example 1014, 6.0 mg; >99% ee) and the title optically active substance with a retention time of 13.0 minutes (Example 1015, 5.9 mg; >99% ee). The physical properties of the compounds are as follows.

reactant | Sodium hydride | 50 mg | [H-].[Na+]
reactant | (E)-5-chloro-2-(3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene)valeric acid (1,2,3,4-tetrahydronaphthalen-2-yl)amide | 255 mg | C1C(CCC2=CC=CC=C12)NC(/C(/CCCCl)=C/C1=CC(=C(C=C1)N1C=NC(=C1)C)OC)=O | C27H30ClN3O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | (E)-3-(3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene)-1-(1,2,3,4-tetrahydronaphthalen-2-yl)piperidin-2-one | COC=1C=C(\C=C/2\C(N(CCC2)C2CC3=CC=CC=C3CC2)=O)C=CC1N1C=NC(=C1)C | C27H29N3O2
